US04371537
To 4.89 g of 3,4-dichlorophenol dissolved in a 25 ml THF/25 ml DMSO mixture was added 3.2 g of t-BuOK and then 8.74 g of 2,5-bis((1-methylethyl)sulfonyl)pyridine, and the resulting mixture was heated at 58° C. for 11/2 hrs. The reaction mixture was allowed to cool overnight and then poured in approximately 3 to 4 volumes of water and stirred. The yellow-white precipitate which formed was removed by filtration. Recrystallization from CH2Cl2 /ethanol gave the product, 2-(3,4-dichlorophenoxy)-5-((1-methylethyl)sulfonyl)pyridine, (42% yield), as tiny white needles, m.p. 91°-92° C.

reactant | 3,4-dichlorophenol | 4.89 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | t-BuOK | 3.2 g | CC(C)(C)[O-].[K+]
reactant | 2,5-bis((1-methylethyl)sulfonyl)pyridine | 8.74 g | CC(C)S(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C(C)C | C11H17NO4S2
reactant | water | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-(3,4-dichlorophenoxy)-5-((1-methylethyl)sulfonyl)pyridine | 42% yield | ClC=1C=C(OC2=NC=C(C=C2)S(=O)(=O)C(C)C)C=CC1Cl | C14H13Cl2NO3S
